US07018988B2
(2S,4EZ)-N2-benzyl-4-(methoxyimino)-N1-pentyl-1,2-pyrrolidinedicarboxamide
Following the general method as outlined in Example 22, starting from (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid, 1-isocyanatopentane, and benzylamine the title compound was obtained in 100% purity by LC/MS. MS(ESI+): m/z=361.0.

reactant | (2S,4EZ)-1-(tert-butoxycarbonyl)-4-(methoxyimino)-2-pyrrolidinecarboxylic acid | C(C)(C)(C)OC(=O)N1[C@@H](CC(C1)=NOC)C(=O)O | C11H18N2O5
reactant | 1-isocyanatopentane | N(=C=O)CCCCC | C6H11NO
reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
product | (2S,4EZ)-N2-benzyl-4-(methoxyimino)-N1-pentyl-1,2-pyrrolidinedicarboxamide | C(C1=CC=CC=C1)NC(=O)[C@H]1N(CC(C1)=NOC)C(=O)NCCCCC | C19H28N4O3
